US04554280
14.4 g of 6-amino-7-nitro-1,3-benzodioxane were hydrogenated in 1 l of methanol with Raney-nickel. After completion of the H2 -uptake, the catalyst was separated, the solvent was removed by evaporation in vacuo, and the residue was recrystallized from isopropanol. 10.3 g (84.4% of theory) of 1,3-benzodioxane-6,7-diamine of melting point 156°-158° C. were obtained.

reactant | 6-amino-7-nitro-1,3-benzodioxane | 14.4 g | NC1=CC2=C(OCOC2)C=C1[N+](=O)[O-] | C8H8N2O4
solvent | methanol | 1 l | CO | CH4O
catalyst | Raney-nickel | [Ni] | Ni
product | 1,3-benzodioxane-6,7-diamine | 10.3 g, 84.4% | O1COCC2=C1C=C(C(=C2)N)N | C8H10N2O2
